US08957220B2
To a reaction flask was added a mixture of 156 g of 1-(5-amino-4-chloro-2-fluorophenyl)-4-difluoromethyl-3-methyl-1H-1,2,4-triazol-5-one and 700 g of acetone. The mixture was stirred and dissolved, and then 50 g of hydrogen chloride was introduced while maintaining a temperature between 0˜5° C. 500 g of acrylic acid, 6 g of cuprous chloride and 12 g of lithium chloride were successively added. Then 115 g of a 45% aqueous solution of sodium nitrite was added dropwise below a liquid level. After the adding was completed, the mixture was stirred for additional 0.5 hour. The reaction mixture was concentrated under reduced pressure. The residue was diluted with 1000 ml of methyl benzene, washed with 300 ml of water and twice with 300 ml of a 5% diluted hydrochloride acid and then with 400 ml of water, and then concentrated under reduced pressure. After cooling, crystallized products were collected by filtration and dried, to give 174 g of 2-chloro-3-{2-chloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]-4-fluorophenyl}propionic acid as white solids with a purity of 98.6%.

reactant | 1-(5-amino-4-chloro-2-fluorophenyl)-4-difluoromethyl-3-methyl-1H-1,2,4-triazol-5-one | 156 g | NC=1C(=CC(=C(C1)N1N=C(N(C1=O)C(F)F)C)F)Cl | C10H8ClF3N4O
reactant | hydrogen chloride | 50 g | Cl | ClH
reactant | acrylic acid | 500 g | C(C=C)(=O)O | C3H4O2
reactant | lithium chloride | 12 g | [Cl-].[Li+]
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | acetone | 700 g | CC(=O)C | C3H6O
product | 2-chloro-3-{2-chloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]-4-fluorophenyl}propionic acid | 174 g | ClC(C(=O)O)CC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)F)Cl | C13H10Cl2F3N3O3
